US07279473B2
N-Cyclopropyl-4-pyrazolo[1,5-b]pyridazin-3-yl-2-pyrimidinamine
To a solution of (2E)-3-(dimethylamino)-1-pyrazolo[1,5-b]pyridazin-3-yl-2-propen-1-one (43 mg, 0.20 mmol) in DMF (2 mL) was added N-cyclopropylguanidine.0.5H2SO4 (160 mg, 0.80 mmol) and potassium carbonate (110 mg, 0.80 mmol). The reaction was heated at an oil bath temperature of 165° C. for about 18 hours. The mixture was cooled to RT and the solvent was removed in vacuo. The residue was dissolved in chloroform and filtered. The filtrate was purified by flash column chromatography (0-10% gradient MeOH/CH2Cl2) to give the title compound as a yellow solid (38 mg, 75%). 1H-NMR (400 MHz, d6-DMSO) δ 9.13 (dd, 1H, J=9.0, 1.6 Hz), 8.77 (s, 1H), 8.53 (dd, 1H, J=4.4, 1.6 Hz), 8.24 (d, 1H, J=5.2 Hz), 7.38 (m, 1H), 7.10 (d, 1H, J=5.2 Hz), 2.72 (m, 1H), 0.71 (m, 2H), 0.47 (m, 2H), MS (ESI) (M+H)+ 253.

reactant | (2E)-3-(dimethylamino)-1-pyrazolo[1,5-b]pyridazin-3-yl-2-propen-1-one | 0.20 mmol, 43 mg | CN(/C=C/C(=O)C=1C=NN2N=CC=CC21)C | C11H12N4O
reactant | N-cyclopropylguanidine | C1(CC1)NC(=N)N | C4H9N3
reactant | potassium carbonate | 0.80 mmol, 110 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-Cyclopropyl-4-pyrazolo[1,5-b]pyridazin-3-yl-2-pyrimidinamine | 38 mg, 75% | C1(CC1)NC1=NC=CC(=N1)C=1C=NN2N=CC=CC21 | C13H12N6
